US08735379B2
To a solution of (4Z,7Z,10Z,13Z,16Z,19Z)—N-(2-aminoethyl)-N-methyldocosa-4,7,10,13,16,19-hexaenamide (104 mg, 0.27 mmol), 2-hydroxybenzoyl chloride (37 mg, 0.27 mmol) and imidazole (19 mg, 0.27 mmol) in EA (4 mL) at 0° C. was added dropwise a solution of DCC (0.57 g, 0.27 mmol) in EA (4 mL). The mixture was stirred (RT, 16 h), filtered and concentrated under reduced pressure. The crude material was purified by chromatography on silica gel, eluting with EA-PE (1:3) to afford 2-hydroxy-N-(2-((4Z,7Z,10Z,13Z,16Z,19Z)—N-methyldocosa-4,7,10,13,16,19-hexaenamido)ethyl)benzamide (100 mg, 73%) as a colorless oil. Mass calculated for C32H44N2O3=504.70. found: [M+H]+=505.5.

reactant | (4Z,7Z,10Z,13Z,16Z,19Z)—N-(2-aminoethyl)-N-methyldocosa-4,7,10,13,16,19-hexaenamide | 0.27 mmol, 104 mg | NCCN(C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)C | C25H40N2O
reactant | 2-hydroxybenzoyl chloride | 0.27 mmol, 37 mg | OC1=C(C(=O)Cl)C=CC=C1 | C7H5ClO2
reactant | imidazole | 0.27 mmol, 19 mg | N1C=NC=C1 | C3H4N2
reactant | DCC | 0.27 mmol, 0.57 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EA | 4 mL | CC(OCC)=O | C4H8O2
solvent | EA | 4 mL | CC(OCC)=O | C4H8O2
product | 2-hydroxy-N-(2-((4Z,7Z,10Z,13Z,16Z,19Z)—N-methyldocosa-4,7,10,13,16,19-hexaenamido)ethyl)benzamide | 100 mg, 73% | OC1=C(C(=O)NCCN(C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)C)C=CC=C1 | C32H44N2O3
